US06583321B1
Preparation of 4′-Methanesulfonyl-3,4-dimethoxy-biphenyl
4′-methanesulfonyl-biphenyl-3,4-diol (30 mg) and potassium carbonate (38 mg) were dissolved in methylethylketone. Afterward, methane iodide (0.021 ml) was added and refluxed for 3 hours at 100° C. After filtering just potassium carbonate, the residue was separated through a silica gel attributed chromatography (an eluting agent: ethylacetate/n-hexane=1/4, v/v). As a result, the present compound (22 mg, productive yield 60%) was obtained.

reactant | 4′-methanesulfonyl-biphenyl-3,4-diol | 30 mg | CS(=O)(=O)C1=CC=C(C=C1)C1=CC(=C(C=C1)O)O | C13H12O4S
reactant | potassium carbonate | 38 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methane iodide | 0.021 ml | [I-].C
solvent | methylethylketone | CC(=O)CC | C4H8O
product | 4′-Methanesulfonyl-3,4-dimethoxy-biphenyl | yield 60% | CS(=O)(=O)C1=CC=C(C=C1)C1=CC(=C(C=C1)OC)OC | C15H16O4S
